### ISSUE TITLE
[track] SymM resources

### ISSUE THREAD

**Issue by andres-erbsen** [AeneasVerif/kraken#91]
I'm looking into what SymM APIs to use for building our tactics and will post notes here.

- https://lean-lang.org/doc/api/Lean/Meta/Sym/Grind.html
- https://lean-lang.org/doc/api/Lean/Meta/Sym/SymM.html
- https://lean-lang.org/doc/api/Lean/Meta/Sym/Apply.html
- https://lean-lang.org/doc/api/Lean/Meta/Sym/Pattern.html
- https://github.com/riccardobrasca/lean4/tree/master/tests/bench/sym
- https://github.com/riccardobrasca/lean4/tree/master/tests/bench/mvcgen/sym
- https://github.com/verse-lab/loom2/tree/682151a365e50f159f0c5c871823240235fab869/Loom/Tactic
- https://leanprover-community.github.io/mathlib4_docs/Lean/Elab/MatchExpr.html
- beta-to-let reduction https://gist.github.com/Kha/36170fe14050caa3d4d06e4386a629a1
- head reduction https://leanprover.zulipchat.com/#narrow/channel/594054-SymM-users/topic/Repeated.20head.20reduction.20and.20nothing.20else
- shared lets between goals https://github.com/nomeata/lean-lift-lets
- injections https://github.com/leanprover/lean4/blob/master/tests/pkg/homo/Homo/Init.lean#L19
    - WIP intblasting https://github.com/leanprover/lean4/compare/master...andres-erbsen:lean4:intblasting?expand=1

**Comment by andres-erbsen** [comment]
Here's a self-contained example of implementing an apply step in `SymM` and giving it syntax in the `sym =>`  interactive mode:

```lean
import Lean.Elab.Tactic.Grind.Basic
import Lean.Meta.Sym.Grind
open Lean Meta Elab Tactic

syntax (name := symApplyConj) "apply_conj " term : grind

@[grind_tactic symApplyConj]
def evalSymApplyConj : Grind.GrindTactic :=
  fun stx : Syntax => do
  let t : Name := ``And.intro
  let rule : Sym.BackwardRule ← Sym.mkBackwardRuleFromDecl t
  let goal : Grind.Goal ← Grind.getMainGoal
  let .goals gs : Grind.ApplyResult ← Grind.liftGrindM (Grind.Goal.apply goal rule) | throwError "Did not apply"
  Grind.setGoals gs

example (p q : Prop) : p → q → p ∧ q := by
  sym =>
    -- apply_conj `tt -- Did not apply
    intro hp hq
    apply_conj tt
    apply hp
    lia
```

**Comment by andres-erbsen** [comment]
switching back and forth between symM by mode and tacticM by mode works only in CPS (no way to exit, just enter again)

```lean
example (p q : Prop) : p → q → p ∧ (q ∧ True) := by
  sym =>
    intro h1 h2
    apply And.intro
    tactic => assumption
    tactic => simp; assumption
```
